US09062021B2
A solution of 1-[(9Z,12Z)-octadeca-9,12-dien-1-yloxy]-3-(octyloxy)propan-2-ol in DCM (166 ml) in a 1 L flask under nitrogen was cooled in an ice/IPA bath (−15° C.) and then 1 M diethylzinc in hexane (199 ml, 199 mmol) added, followed by diiodomethane (24.05 ml, 298 mmol). The mixture was allowed to stir in the cooling bath overnight to gradually come up to room temperature. Reaction was quenched by addition of excess saturated ammonium chloride. Washed reaction into 2 L separatory funnel with hexane and water and added excess hexane, shook vigorously. Discarded lower aqueous layer, dried organic layer with sodium sulfate and evaporated to 1-(octyloxy)-3-[(8-{2-[(2-pentylcyclopropyl)methyl]cyclopropyl}octyl)oxy]propan-2-ol (15.5 g, 32.2 mmol, 97% yield) as a yellow oil. Material was used with no further purification. MS (ESI): 481 [M+H]+.

reactant | 1-[(9Z,12Z)-octadeca-9,12-dien-1-yloxy]-3-(octyloxy)propan-2-ol | C(CCCCCCC\C=C/C\C=C/CCCCC)OCC(COCCCCCCCC)O | C29H56O3
reactant | diethylzinc | 1 M | C(C)[Zn]CC
reactant | diiodomethane | 298 mmol, 24.05 ml | ICI | CH2I2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 166 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 199 mmol, 199 ml | CCCCCC | C6H14
product | 1-(octyloxy)-3-[(8-{2-[(2-pentylcyclopropyl)methyl]cyclopropyl}octyl)oxy]propan-2-ol | 32.2 mmol, 15.5 g, 97% yield | C(CCCCCCC)OCC(COCCCCCCCCC1C(C1)CC1C(C1)CCCCC)O | C31H60O3
